datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CCCCC[C:11](=[CH2:10])CCCCC1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C+:11]2CCCCCCCCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)[O-:12])C=C1.CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.C1C[N:72]([C:61]([S-:10])=[S:62])CCO1>>C1=CC=C([N:31]=[C:20]([S:10][C:61](=[S:62])[N:72]2CCOCC2)[O-:21])C=C1 10=20;20,21=21"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.Cl[C:20]1([H:10])[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N:12]1/[CH:11]=[CH:10]/C1=CC=CC=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N+:12]1=[CH:11][CH:10](C1=CC=CC=C1)[CH:20]1C=CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12;20,21=21"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[O:12][C:11]1=[CH:10][CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1>>CC[O:50][C:22](=[CH:21][CH:20]([CH:10]1[C:11](=[O+:12]C)[CH:62]=[C:63]([O:64]C)[CH:72]=[CH:71]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2>>CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC12C3(C)C4(C)C5(C)C1(C)[Fe-2:11]2345(C#[O+])(C#[O+])[H:10].CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1>>CC12C3(C)C4(C)C5(C)C1(C)[Fe-:11]2345(C#[O+])C#[O+].CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([H:10])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.CC(C)(C)[Si:63](C)(C)[O:12][C:11](C)=[CH2:10]>>CC(C)(C)[Si:63](C)(C)[O+:12]=[C:11](C)[CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCC[C:11](=[CH2:10])CCC1.C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1>>C1CCC[C+:11]([CH2:10][CH:20]2CCCC[C:22]([O-:23])=[CH:21]2)CCC1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCOCC2)C=C1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.FC(F)(F)[S:20][CH:10](C1=CC=CC=C1)[CH:11]=[N+:12]1CCOCC1 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[C:61]#[N:10]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]#[C:61]C)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>Cl[C:20]1([CH:10]2CCC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].CC1=CC(C)=C([N:62]2[P:11]([H:10])[N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1>>C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C-:21]([CH:20]([H:10])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].CC1=CC(C)=C([N:62]2[P+:11][N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1 10,11=10,20;20,21=21"
